US07786132B2
2-(2-((2-(5,5-Dimethyl-2,4-dioxo-1-imidazolidinyl)ethyl)amino)-4-pyrimidinyl)-3-thiophenecarbonitrile
A round-bottomed flask equipped with a nitrogen inlet and a reflux condenser was charged with 1-(2-(4-(3-bromothiophen-2-yl)pyrimidin-2-ylamino)ethyl)-5,5-dimethylimidazol-idine-2,4-dione (50 mg, 0.12 mmol), copper (I) cyanide (33 mg, 0.36 mmol), and dry DMF (2 mL). The reaction mixture was heated to reflux (bath temperature 160° C.). After 4 h, the reaction vessel was removed from the oil bath and allowed to cool to approximately 70° C. and poured into a stirring suspension of iron (III) chloride (0.28 g, 1.70 mmol) in 1.7 N aqueous HCl (5.0 mL). The combined mixture was maintained at 60-70° C. for 30 min at which time the mixture was allowed to cool to ambient temperature and extracted with three 15 mL portions of dichloromethane. The combined extracts were washed with two 40 mL portions of 6 N aqueous HCl, saturated aqueous NaHCO3, and H2O, then dried over Na2SO4 and concentrated. Chromatographic purification by preparative TLC, eluting with 8% MeOH/dichloromethane, and subsequent crystallization from EtOAc afforded the product as a white solid. MS (M+H)+ 357.

reactant | 1-(2-(4-(3-bromothiophen-2-yl)pyrimidin-2-ylamino)ethyl)-5,5-dimethylimidazol-idine-2,4-dione | 0.12 mmol, 50 mg | BrC1=C(SC=C1)C1=NC(=NC=C1)NCCN1C(NC(C1(C)C)=O)=O | C15H16BrN5O2S
reactant | copper (I) cyanide | 0.36 mmol, 33 mg | [Cu]C#N
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | HCl | 1.7 N, 5.0 mL | Cl | ClH
catalyst | iron (III) chloride | 1.70 mmol, 0.28 g | [Fe](Cl)(Cl)Cl
product | 2-(2-((2-(5,5-Dimethyl-2,4-dioxo-1-imidazolidinyl)ethyl)amino)-4-pyrimidinyl)-3-thiophenecarbonitrile | CC1(C(NC(N1CCNC1=NC=CC(=N1)C=1SC=CC1C#N)=O)=O)C | C16H16N6O2S
